US07863271B2
To a solution of di-(1H-imidazole-1-yl)methanamine (1.05 g, 6.52 mmol) in THF (30 mL) was added methyl-2-amino-5-fluoro-3-hydroxybenzoate (0.96 g, 5.22 mmol) at room temperature and the resulting reaction mixture was heated to reflux for 6 h. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in EtOAc (200 mL) and washed with H2O (4×100 mL), saturated aqueous ammonium chloride (2×100 mL), brine (2×100 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to afford methyl 2-amino-6-fluorobenzoxazole-4-carboxylate (0.95 g, 87%) as a yellow solid. 1H NMR and MS consistent.

reactant | di-(1H-imidazole-1-yl)methanamine | 6.52 mmol, 1.05 g | N1(C=NC=C1)C(N)N1C=NC=C1 | C7H9N5
reactant | methyl-2-amino-5-fluoro-3-hydroxybenzoate | 5.22 mmol, 0.96 g | COC(C1=C(C(=CC(=C1)F)O)N)=O | C8H8FNO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | methyl 2-amino-6-fluorobenzoxazole-4-carboxylate | 0.95 g, 87% | NC=1OC=2C(N1)=C(C=C(C2)F)C(=O)OC | C9H7FN2O3
